US04357351
N,N'-diheptyl-S-ethyl-N-propane sulfonyl isothiourea
1.8 g (0.018 mole) of triethylamine was added to 4.5 g (0.015 mole) N,N'-diheptyl-S-ethyl-isothiourea in 50 ml methylene chloride in a stirred round bottom flask. A solution of propanesulfonyl chloride (0.018 mole, 2.6 g) in 8 ml methylene chloride was added dropwise to the above solution at 0° C. The mixture was stirred 1.5 hours at room temperature then at 30°-35° C. for 1.5 hours. The cooled solution was washed twice with 20 ml water, once with 25 ml saturated sodium bicarbonate solution and twice more with 20 ml of water. The organic phase was dried over magnesium sulfate and evaporated invacuo to yield the product as a yellow oil. nD30 1.4805. Yield was 5.2 g (85.4% of theory). The structure was confirmed by IR spectrum. Compound No. 203 in Table I.

reactant | triethylamine | 0.018 mole, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | N,N'-diheptyl-S-ethyl-isothiourea | 0.015 mole, 4.5 g | C(CCCCCC)NC(SCC)=NCCCCCCC | C17H36N2S
reactant | propanesulfonyl chloride | 0.018 mole, 2.6 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | N,N'-diheptyl-S-ethyl-N-propane sulfonyl isothiourea | C(CCCCCC)N(C(SCC)=NCCCCCCC)S(=O)(=O)CCC | C20H42N2O2S2
